US05153201
2-(2,3-Dimethoxystyryl)-4,5,6,7-tetrahydrothiazolo[5,4-b]pyridine dihydrochloride
2-(2,3-Dimethoxystyryl)-4,5,6,7-tetrahydrothiazolo[5,4-b]pyridine was neutralized with hydrochloric acid and recrystallized from ethanol-diethyl ether to obtain the title compound (yield: 92.7%).

reactant | 2-(2,3-Dimethoxystyryl)-4,5,6,7-tetrahydrothiazolo[5,4-b]pyridine | COC1=C(C=CC=2SC=3NCCCC3N2)C=CC=C1OC | C16H18N2O2S
reactant | hydrochloric acid | Cl | ClH
product | 2-(2,3-Dimethoxystyryl)-4,5,6,7-tetrahydrothiazolo[5,4-b]pyridine dihydrochloride | yield: 92.7% | Cl.Cl.COC1=C(C=CC=2SC=3NCCCC3N2)C=CC=C1OC | InChI=1S/C16H18N2O2S.2ClH/c1-19-13-7-3-5-11(15(13)20-2)8-9-14-18-12-6-4-10-17-16(12)21-14;;/h3,5,7-9,17H,4,6,10H2,1-2H3;2*1H
